US07863450B2
5.3 Synthesis of 1-(3-{4-[4-(piperidin-1-ylmethyl)-4,5-dihydro-1,3-oxazol-2-yl]phenoxy}propyl)piperidine 20
To a cold (−23° C.) solution of {2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4,5-dihydro-1,3-oxazol-4-yl}methanol ax46 (0.27 g, 0.85 mmol, 1 eq) and triethylamine (0.413 ml, 2.98 mmol, 3.5 eq) in tetrahydrofuran (10 ml) is added methanesulfonyl chloride (0.23 ml, 2.98 mmol, 3.5 eq). The mixture is stirred for 2 h at −23° C., and then, concentrated under vacuum. The residual oil is treated with piperidine (0.08 ml, 0.8 nmol, 2 eq) and triethylamine (0.05 ml, 0.42 mmol, 1 eq) and stirred at 100° C. in a sealed tube overnight. After 24 h, piperidine (1 eq) and triethylamine (1 eq) are added and the mixture is stirred for another 48 h at 100° C. Concentration under vacuum gives 0.33 g of brown oil. The oil is purified on silicagel (eluent: dichloromethane/ethanol/ammonia 92:7.2:0.8) to give 45 mg of 1-(3-{4-[4-(piperidin-1-ylmethyl)-4,5-dihydro-1,3-oxazol-2-yl]phenoxy}propyl)piperidine 20.

reactant | {2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4,5-dihydro-1,3-oxazol-4-yl}methanol | N1(CCCCC1)CCCOC1=CC=C(C=C1)C=1OCC(N1)CO | C18H26N2O3
reactant | triethylamine | 2.98 mmol, 0.413 ml, 3.5 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.98 mmol, 0.23 ml, 3.5 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.42 mmol, 0.05 ml, 1 eq | C(C)N(CC)CC | C6H15N
reactant | piperidine | 1 eq | N1CCCCC1 | C5H11N
reactant | triethylamine | 1 eq | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | piperidine | 0.8 nmol, 0.08 ml, 2 eq | N1CCCCC1 | C5H11N
product | 1-(3-{4-[4-(piperidin-1-ylmethyl)-4,5-dihydro-1,3-oxazol-2-yl]phenoxy}propyl)piperidine | 0.33 g, Yield: 28% | N1(CCCCC1)CC1N=C(OC1)C1=CC=C(OCCCN2CCCCC2)C=C1 | C23H35N3O2
